US06693123B2
4-(4-Pyridyl-t-butyldimethylsilyloxymethyl)-2-phenylbenzoic Acid
4-(4-Pyridyl-t-butyldimethylsilyloxymethyl)-2-phenylbenzoic acid methyl ester (0.97 g, 2.24 mmol), prepared as in Example 297B, was dissolved in methanol. Saturated aqueous LiOH (1 mL) was added, and the solution was reluxed overnight. The reaction was evaporated to dryness and partitioned between ethyl acetate and water. The organic layer was dried over Na2SO4 to provide the title compound in 27% yield.

reactant | 4-(4-Pyridyl-t-butyldimethylsilyloxymethyl)-2-phenylbenzoic acid methyl ester | 2.24 mmol, 0.97 g | COC(C1=C(C=C(C=C1)C(O[Si](C)(C)C(C)(C)C)C1=CC=NC=C1)C1=CC=CC=C1)=O | C26H31NO3Si
reactant | LiOH | 1 mL | [Li+].[OH-]
solvent | methanol | CO | CH4O
product | 4-(4-Pyridyl-t-butyldimethylsilyloxymethyl)-2-phenylbenzoic Acid | 27% yield | N1=CC=C(C=C1)C(C1=CC(=C(C(=O)O)C=C1)C1=CC=CC=C1)O[Si](C)(C)C(C)(C)C | C25H29NO3Si
